US07595327B2
According to the procedure of Example 10, Step 2, the reaction of 321.4 mg (0.73 mmol) of (1S,2R)-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid with hydroxylamine provided 139.5 mg of (1S,2R)-N-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide with 43% yield. MS: 456.1 (M+H)+

reactant | (1S,2R)-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid | 0.73 mmol, 321.4 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@H](CCC1)C(=O)O | C23H24N2O5S
reactant | hydroxylamine | NO | H3NO
product | (1S,2R)-N-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide | 139.5 mg, 43% yield | ONC(=O)[C@@H]1[C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C23H25N3O5S
